US06924278B2
A solution of N-acetyl-3,4-dimethylphenyl-D-alanine (5.0 g) in a mixture of concentrated hydrochloric acid (50 ml) and acetic acid (50 ml) was stirred under reflux for 20 hours. After being cooled to room temperature, the resulting precipitates were collected by filtration and washed with ethyl acetate to give colorless crystals of 3,4-dimethylphenyl-D-alanine hydrochloride (3.75 g).

reactant | N-acetyl-3,4-dimethylphenyl-D-alanine | 5.0 g | C(C)(=O)N([C@H](C)C(=O)O)C1=CC(=C(C=C1)C)C | C13H17NO3
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 3,4-dimethylphenyl-D-alanine hydrochloride | 3.75 g | Cl.CC=1C=C(C=CC1C)N[C@H](C)C(=O)O | InChI=1S/C11H15NO2.ClH/c1-7-4-5-10(6-8(7)2)12-9(3)11(13)14;/h4-6,9,12H,1-3H3,(H,13,14);1H/t9-;/m1./s1
